US05302720
A mixture of 2-amino-4'-methylbiphenyl hydrochloride (5.3 g), N,N-dimethylcyanamide (2.55 g) and m-cresol (25 ml) was heated at 90°-95° C. for 10 hours to give N,N-dimethyl-N'-(4'-methyl-2-biphenylyl)guanidine (m.p. 147°-148° C.) which was recrystallised from hexane.

reactant | 2-amino-4'-methylbiphenyl hydrochloride | 5.3 g | Cl.NC1=C(C=CC=C1)C1=CC=C(C=C1)C
reactant | N,N-dimethylcyanamide | 2.55 g | CN(C#N)C | C3H6N2
reactant | m-cresol | 25 ml | C1=C(C=CC=C1O)C | C7H8O
product | N,N-dimethyl-N'-(4'-methyl-2-biphenylyl)guanidine | CN(C(=N)NC1=C(C=CC=C1)C1=CC=C(C=C1)C)C | C16H19N3
